* C:\users\abbekasagas\Desktop\repos\axis-projekt\analog\condenser_mic_amp.asc
C1 N009 N008 1µ
R4 N006 N005 2k
R5 0 N005 1k
C2 N007 N006 100µ
R7 N007 N004 100k
XU3 N007 N004 N002 0 trigg level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 N002 N004 10k
R9 N004 0 10k
R10 N007 0 2000k
XU1 N009 N005 N001 N010 N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V5 N001 0 9
V6 0 N010 9
R1 N008 0 2200
I1 N010 N008 SINE(0 0.0001 2000 0 0 0 0.5)
XU2 N003 N002 N001 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 N003 0 50k
R3 N001 N003 40k
.tran 0.01
.lib UniversalOpAmp2.lib
.backanno
.end
