* C:\users\abbekasagas\Desktop\repos\axis-projekt\analog\condenser_mic_amp.asc
C1 N007 N006 1µ
R4 N004 N003 2k
R5 0 N003 1k
C2 N005 N004 100µ
R7 N005 N002 100k
XU3 N005 N002 N001 0 trigg level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 N001 N002 10k
R9 N002 0 10k
R10 N005 0 2000k
XU1 N007 N003 N001 N009 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N006 0 2200
I1 N009 N006 SINE(0 0.0001 2000 0 0 0 0.5)
XU4 N008 0 N001 N009 0 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 N001 N009 9
R6 N001 N008 100k
R11 N008 N009 100k
.tran 0.01
.lib UniversalOpAmp2.lib
.backanno
.end
